US08183380B2
rac-N-[2-(5-Fluoro-indan-1-ylamino)-quinolin-6-yl]-2-morpholin-4-yl-acetamide
The title compound was prepared in accordance with the general method 14 described in example 119 from rac-N2-(5-fluoro-indan-1-yl)-quinoline-2,6-diamine and morpholin-4-yl-acetic acid; MS: m/e=421.2 (M+H+).

reactant | rac-N2-(5-fluoro-indan-1-yl)-quinoline-2,6-diamine | FC=1C=C2CCC(C2=CC1)NC1=NC2=CC=C(C=C2C=C1)N | C18H16FN3
reactant | morpholin-4-yl-acetic acid | N1(CCOCC1)CC(=O)O | C6H11NO3
product | rac-N-[2-(5-Fluoro-indan-1-ylamino)-quinolin-6-yl]-2-morpholin-4-yl-acetamide | FC=1C=C2CCC(C2=CC1)NC1=NC2=CC=C(C=C2C=C1)NC(CN1CCOCC1)=O | C24H25FN4O2
